US05190959
The procedure of Example 24 (a) was repeated except for using 4-[(4-methoxyphenyl)-phenylmethoxy]piperidine and 1-chloro-3-(2-nitrophenoxy)propane instead of 4-[(2-chlorophenyl)-phenylmethoxy]piperidine and 1-chloro-3-(2-nitrophenoxy)propane to give oily 4-[(4-methoxyphenyl)-phenylmethoxy]-1-[3-(2-nitrophenoxy)propyl]piperidine.

reactant | 4-[(4-methoxyphenyl)-phenylmethoxy]piperidine | COC1=CC=C(C=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C19H23NO2
reactant | 1-chloro-3-(2-nitrophenoxy)propane | ClCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C9H10ClNO3
product | 4-[(4-methoxyphenyl)-phenylmethoxy]-1-[3-(2-nitrophenoxy)propyl]piperidine | COC1=CC=C(C=C1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C28H32N2O5
